US04125732
Methyl (p-Phenoxyphenoxy){p-[2-(p-fluorophenoxy)propoxy]phenyl}acetate
As described in Example 35, 4.66 g of p-phenoxyphenol is reacted with methyl bromo{p-[2-(p-fluorophenoxy)propoxy]phenyl}acetate (0.02 mole) in refluxing methanol-benzene for 24 hrs to give the product as a viscous oil.

reactant | p-phenoxyphenol | 4.66 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | methyl bromo{p-[2-(p-fluorophenoxy)propoxy]phenyl}acetate | 0.02 mole | BrC(C(=O)OC)C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)F | C18H18BrFO4
product | Methyl (p-Phenoxyphenoxy){p-[2-(p-fluorophenoxy)propoxy]phenyl}acetate | O(C1=CC=CC=C1)C1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OCC(C)OC2=CC=C(C=C2)F)C=C1 | C30H27FO6
